US05321026
Fumaric acid (2.7 g) is added to a solution of N-propyl-10-[1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide, L series (9.5 g), in ethanol (100 cc). The solution obtained is concentrated to dryness under reduced pressure (300 mm Hg; 4 kPa) at 40° C. The meringue-like yellow residue is taken up with acetic acid (200 cc). Mercuric acetate (7.3 g) is added to the solution obtained and the mixture is stirred for 16 hours at a temperature in the region of 20° C. The black suspension obtained is diluted with distilled water (200 cc) and filtered. The yellow filtrate is concentrated under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residue is taken up with ethyl acetate (250 cc) and distilled water (50 cc) and then treated with sodium hydroxide (d=1.33) to pH 13. The aqueous phase is separated after settling has taken place and extracted with ethyl acetate (250 cc). The organic phases are combined, washed successively with distilled water (2×100 cc) and with a saturated aqueous sodium chloride solution (100 cc) and dried over magnesium sulphate. After filtration, the yellow filtrate is concentrated under reduced pressure (30 mm Hg; 4 kPa) at 40° C. and a crude yellow oil (9.2 g) is thereby obtained. This residue is purified by chromatography on a column (height: 22 cm; diameter: 4 cm) of silica gel (0.2-0.063 mm), eluting with a mixture of methylene chloride and methanol (95:5 by volume). The first 1500 cc are discarded and the next 1500 cc are concentrated under reduced pressure (30 mm Hg; 4 kPa) at 40° C. to give N-propyl-10-[1-(pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide, L series (7.3 g), in the form of a yellow gum.

reactant | Fumaric acid | 2.7 g | C(\C=C\C(=O)O)(=O)O | C4H4O4
reactant | 2-phenothiazinecarbothioamide | C1=C(C=CC=2SC3=CC=CC=C3NC12)C(N)=S | C13H10N2S2
reactant | water | 200 cc | O | H2O
solvent | ethanol | 100 cc | C(C)O | C2H6O
product | N-propyl-10-[1-(pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide | C(CC)NC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C | C23H29N3OS
